US07375222B2
A 565 mg portion of the N-(4-fluorophenyl)-N′-[(6-methoxypyridin-3-yl)methyl]-N″-phenyl-1,3,5-triazine-2,4,6-triamine hydrochloride synthesized in Invention Example 753 was mixed with 5 ml of 25% hydrobromic acid acetic acid solution and 1 ml of 48% hydrobromic acid aqueous solution and stirred at 80° C. for 6 hours. After evaporation of the reaction solution under a reduced pressure, the residue was mixed with ethyl acetate and sodium bicarbonate aqueous solution in that order and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried using anhydrous magnesium sulfate. The solvent was evaporated under a reduced pressure, and the thus obtained residue was applied to a silica gel column chromatography and eluted with chloroform:methanol (99:1) to obtain a crude product. This crude product was dissolved in ethyl acetate and mixed with 4 M hydrochloric acid ethyl acetate solution, and the thus formed crystals were collected by filtration and dried to obtain 195 mg of 5-[({4-anilino-6-[(4-fluorophenyl)amino]-1,3,5-triazin-2-yl}amino)methyl]pyridine-2(1H)-one hydrochloride as colorless crystals.

reactant | N-(4-fluorophenyl)-N′-[(6-methoxypyridin-3-yl)methyl]-N″-phenyl-1,3,5-triazine-2,4,6-triamine hydrochloride | Cl.FC1=CC=C(C=C1)NC1=NC(=NC(=N1)NCC=1C=NC(=CC1)OC)NC1=CC=CC=C1
reactant | hydrobromic acid acetic acid | 5 ml | C(C)(=O)O.Br
reactant | hydrobromic acid | 1 ml | Br | BrH
reactant | hydrochloric acid ethyl acetate | 4 M | C(C)OC(C)=O.Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-[({4-anilino-6-[(4-fluorophenyl)amino]-1,3,5-triazin-2-yl}amino)methyl]pyridine-2(1H)-one hydrochloride | 195 mg | Cl.N(C1=CC=CC=C1)C1=NC(=NC(=N1)NC1=CC=C(C=C1)F)NCC=1C=CC(NC1)=O | InChI=1S/C21H18FN7O.ClH/c22-15-7-9-17(10-8-15)26-21-28-19(24-13-14-6-11-18(30)23-12-14)27-20(29-21)25-16-4-2-1-3-5-16;/h1-12H,13H2,(H,23,30)(H3,24,25,26,27,28,29);1H
